US07067540B2
3-Bromo-4-[(2,4-difluorobenzyl)oxy]-1-{[5-(hydroxymethyl)pyrazin-2-yl]methyl}-6-methylpyridin-2(1H)-one
To a suspension of ethyl 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylate (2.0 g, 0.004 mol) in t-butanol (15,0 mL and THF (5.0 mL) was added NaBH4 (0.18 g, 0.0047 mol) and the mixture was stirred at room temperature for 16 h under argon atmosphere. It was cooled, added MeOH (5.0 mL) and acetic acid (1.0 mL) and concentrated to dryness. The residue was triturated with water and filtered. It was washed with water, dried in vacuo and purified by flash chromatography (1% MeOH in EtOAc to afford the title compound (0.75 g, 41%) as a pale yellow powder: 1H NMR (CD3OD/400 MHz) δ 8.58 (d. 1H, J=1.6 Hz), 8.56 (d, 1H, J=1.6 Hz), 7.6 (m, 1H), 7.01 (m, 2H), 6.52 (s, 1H), 5.46 (s, 2H), 5.29 (s, 2H), 4.71 (s, 2H), and 2.54 (s, 3H); 19F NMR (CD3OD/400 MHz) δ−111.70 (m), and −116.06 (m); ES-HRMS m/z 452.0394 (M+H C19H17N3O3BrF2 requires 452.0416).

reactant | ethyl 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylate | 0.004 mol, 2.0 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1N=CC(=NC1)C(=O)OCC)=O | C21H18BrF2N3O4
reactant | THF | 5.0 mL | C1CCOC1 | C4H8O
reactant | NaBH4 | 0.0047 mol, 0.18 g | [BH4-].[Na+]
reactant | MeOH | 5.0 mL | CO | CH4O
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 3-Bromo-4-[(2,4-difluorobenzyl)oxy]-1-{[5-(hydroxymethyl)pyrazin-2-yl]methyl}-6-methylpyridin-2(1H)-one | 0.75 g, 41% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=NC=C(N=C1)CO)=O | C19H16BrF2N3O3
